US07323460B2
Step 4: Sodium 5-(1,1-dioxido-1,2-thiazinan-2-yl)-7-[({4-fluoro-2-[(isopropylamino)carbonyl]benzyl}amino)carbonyl]-1,6-naphthyridin-8-olate
5-(1,1-Dioxido-1,2-thiazinan-2-yl)-N-{4-fluoro-2-[(isopropylamino)carbonyl]benzyl}-8-hydroxy-1,6-naphthyridine-7-carboxamide (203 mg, 0.39 mmol) was suspended in acetone (2 mL) and sodium hydroxide (0.39 mL, 0.39 mmol, 1N aqueous solution) was added. The flask was gently warmed to make the solution homogeneous and the solution was then filtered through a glass fiber filter to remove any dust. The solution was stirred at room temperature until solids crashed out of solution. The solids were collected by vacuum filtration to give the title compound as a yellow solid.

reactant | 5-(1,1-Dioxido-1,2-thiazinan-2-yl)-N-{4-fluoro-2-[(isopropylamino)carbonyl]benzyl}-8-hydroxy-1,6-naphthyridine-7-carboxamide | 0.39 mmol, 203 mg | O=S1(N(CCCC1)C1=C2C=CC=NC2=C(C(=N1)C(=O)NCC1=C(C=C(C=C1)F)C(=O)NC(C)C)O)=O | C24H26FN5O5S
reactant | sodium hydroxide | 0.39 mmol, 1N, 0.39 mL | [OH-].[Na+]
solvent | acetone | 2 mL | CC(=O)C | C3H6O
product | Sodium 5-(1,1-dioxido-1,2-thiazinan-2-yl)-7-[({4-fluoro-2-[(isopropylamino)carbonyl]benzyl}amino)carbonyl]-1,6-naphthyridin-8-olate | O=S1(N(CCCC1)C1=C2C=CC=NC2=C(C(=N1)C(=O)NCC1=C(C=C(C=C1)F)C(=O)NC(C)C)[O-])=O.[Na+] | InChI=1S/C24H26FN5O5S.Na/c1-14(2)28-23(32)18-12-16(25)8-7-15(18)13-27-24(33)20-21(31)19-17(6-5-9-26-19)22(29-20)30-10-3-4-11-36(30,34)35;/h5-9,12,14,31H,3-4,10-11,13H2,1-2H3,(H,27,33)(H,28,32);/q;+1/p-1
